US03958003
(1RS,3RS)-4-(5-chloro-3-hydroxyspiro-[indane-1,3'-pyrrolidin]-1'yl)-p-fluorobutyrophenone
15 g of 5-chlorospiro[indane-1,3'-pyrrolidin]-3-ol (mixture of diastereoismers of 50 % of the 1RS,3SR and 50 % of the 1RS,3RS isomer) are dissolved in 200 cc of dimethyl formamide and heated to 100° for 6 hours together with 18 g of sodium carbonate and 23 g of 2-(3-chloropropyl)-2-(p-fluorophenyl)-1,3-dioxolane. Filtration is subsequently effected, the filter residue is washed with chloroform and the organic phase is concentrated. The resulting yellow oil is taken up in 300 cc of chloroform and stirred at room temperature for 1 hour with 250 cc of 2 N hydrochloric acid. The reaction mixture is subsequently made alkaline with caustic soda solution while cooling, is extracted with chloroform and the chloroform phase is concentrated. The crude title compound is obtained together with the 1RS,3SR isomer as brown oil. After adding a solution of hydrogen chloride in ethanol, the 1RS,3RS form crystallizes alone. The hydrochloride form of the pure title compound has a M.P. of 203°-206° after recrystallization from ethanol/ether.

reactant | 5-chlorospiro[indane-1,3'-pyrrolidin]-3-ol | 15 g | ClC=1C=C2C(CC3(CNCC3)C2=CC1)O | C12H14ClNO
reactant | sodium carbonate | 18 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-(3-chloropropyl)-2-(p-fluorophenyl)-1,3-dioxolane | 23 g | ClCCCC1(OCCO1)C1=CC=C(C=C1)F | C12H14ClFO2
solvent | dimethyl formamide | 200 cc | CN(C=O)C | C3H7NO
product | (1RS,3RS)-4-(5-chloro-3-hydroxyspiro-[indane-1,3'-pyrrolidin]-1'yl)-p-fluorobutyrophenone | ClC=1C=C2C(CC3(CN(CC3)CCCC(=O)C3=CC=C(C=C3)F)C2=CC1)O | C22H23ClFNO2
